US06291455B1
Concentrated aqueous ammonia (15 ml) was added to a solution of 2-fluoro-5-methoxycarbonyloxyaniline (400 mg, 2.16 mmol) in methanol (10 ml). The mixture was stirred for 2 hours and most of the solvent was removed by evaporation. The resulting suspension was diluted with water, acidified to pH7 and extracted with ethyl acetate. The organic extracts were washed with water, dried (MgSO4) and solvent removed by evaporation to give 2-fluoro-5-hydroxyaniline (200 mg, 73%).

reactant | ammonia | 15 ml | N | H3N
reactant | 2-fluoro-5-methoxycarbonyloxyaniline | 2.16 mmol, 400 mg | FC1=C(N)C=C(C=C1)OC(=O)OC | C8H8FNO3
solvent | methanol | 10 ml | CO | CH4O
product | 2-fluoro-5-hydroxyaniline | 200 mg, 73% | FC1=C(N)C=C(C=C1)O | C6H6FNO
